US04118494
(a) N-(2,2-diphenyl-4-di-n-butylamino-butyl)-carbamic acid ethyl ester
From 2,2-diphenyl-4-di-n-butylaminobutyl-amine in analogy to 3a. The crude urethane was further reacted in a crude state.

reactant | 2,2-diphenyl-4-di-n-butylaminobutyl-amine | C1(=CC=CC=C1)C(CN)(CCN(CCCC)CCCC)C1=CC=CC=C1 | C24H36N2
reactant | urethane | NC(=O)OCC | C3H7NO2
product | N-(2,2-diphenyl-4-di-n-butylamino-butyl)-carbamic acid ethyl ester | C(C)OC(NCC(CCN(CCCC)CCCC)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H40N2O2
